US04230705
A 200 g. portion of 3-benzoyl-2,3-dimethyl-propionic acid and 60 g. of hydrazine hydrate are added to one liter of ethyl alcohol and stirred at reflux for 18 hours. The reaction mixture is then cooled in an ice bath and collected in a conventional manner to afford 4,5-dihydro-4,5-dimethyl-6-phenyl-3(2H)-pyridazinone as a cream colored solid. This product is partially dissolved in 600 ml. of glacial acetic acid. To this is added, portionwise, a solution of 50 ml. of bromine in 100 ml. of glacial acetic acid, while warming on a steam bath (approximately 15% of the bromine solution is added to the reaction mixture before warming is started and about one hour is required to complete the addition during which time quantities of hydrogen bromide gas are given off). After the addition is completed, the reaction mixture is heated on the steam bath for one hour, and then the mixture is poured onto crushed ice. The resulting solid is vacuum filtered, washed copiously with water, and air dried to give 4,5-dimethyl-6 -phenyl-3(2H)-pyridazinone as a cream colored solid. This material is added to 800 ml. of phosphorus oxychloride and is heated on a steam bath for 5 hours. The reaction mixture is concentrated to remove the excess phosphorus oxychloride and is then diluted with cold water. The resulting solid is vacuum filtered, washed copiously with water, and air dried to give 3-chloro-4,5-dimethyl-6-phenylpyridazine as a pinkish solid. A 10 g. portion of this product plus 8 g. of N-acetylhydrazine and 100 ml. of n-butyl alcohol is allowed to stir at reflux for 48 hours. The reaction mixture is cooled in an ice bath and the resulting solid is vacuum filtered, washed first with petroleum ether and then with water, and is air dried. The solid is recrystallized from ethyl alcohol after treatment with activated charcoal and is dried in vacuo to give 3,7,8-trimethyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine as a white solid.

reactant | 3-benzoyl-2,3-dimethyl-propionic acid | C(C1=CC=CC=C1)(=O)C(C(C(=O)O)C)C | C12H14O3
reactant | hydrazine hydrate | O.NN
solvent | ethyl alcohol | one liter | C(C)O | C2H6O
product | 4,5-dihydro-4,5-dimethyl-6-phenyl-3(2H)-pyridazinone | CC1C(NN=C(C1C)C1=CC=CC=C1)=O | C12H14N2O
